US07795255B2
2-(4-Nitro-phenyl)-4H-furo[3,2-b]pyrrole-5-carboxylic acid ethyl ester is prepared from commercially available 5-(4-nitro-phenyl)furfural and ethyl azidoacetate as described hereinabove.

reactant | 5-(4-nitro-phenyl)furfural | [N+](=O)([O-])C1=CC=C(C=C1)C1=CC=C(C=O)O1 | C11H7NO4
reactant | ethyl azidoacetate | N(=[N+]=[N-])CC(=O)OCC | C4H7N3O2
product | 2-(4-Nitro-phenyl)-4H-furo[3,2-b]pyrrole-5-carboxylic acid ethyl ester | C(C)OC(=O)C1=CC2=C(N1)C=C(O2)C2=CC=C(C=C2)[N+](=O)[O-] | C15H12N2O5
